US08383637B2
N-[3-(3-Dimethoxymethyl-4-nitro-phenoxy)-phenyl]-benzenesulfonamide
A mixture of 3-(3-dimethoxymethyl-4-nitro-phenoxy)phenylamine (0.013 mol) in THF (100 mL) and TEA (200 mL) was stirred at room temperature and a mixture of benzenesulfonyl chloride (0.013 mol) in THF (50 mL) was added dropwise, then the reaction mixture was stirred overnight at room temperature and again overnight at 60° C. The solvent was evaporated and the residue was stirred in H2O. After extraction with CH2Cl2, the organic layer was separated, dried, filtered off and the solvent was evaporated. The residue was purified by Biotage column chromatography (eluent: CH2Cl2 100%). The purest product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | 3-(3-dimethoxymethyl-4-nitro-phenoxy)phenylamine | 0.013 mol | COC(C=1C=C(OC=2C=C(C=CC2)N)C=CC1[N+](=O)[O-])OC | C15H16N2O5
reactant | benzenesulfonyl chloride | 0.013 mol | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-[3-(3-Dimethoxymethyl-4-nitro-phenoxy)-phenyl]-benzenesulfonamide | COC(C=1C=C(OC=2C=C(C=CC2)NS(=O)(=O)C2=CC=CC=C2)C=CC1[N+](=O)[O-])OC | C21H20N2O7S
